US07199239B2
Intermediate 45: Ethyl [4-({butyl[4-(4-chlorophenyl)pyrimidin-2-yl]amino}methyl)-2-methylphenoxy]acetate
To a mixture of the ethyl {4-[(butylamino)methyl]-2-methylphenoxy}acetate (686 mg, 2.46 mmol) and N,N-diisopropylethylamine (285 μL, 1.64 mmol) was added 4-(4-chlorophenyl)-2-(methylsulfonyl)pyrimidine (439 mg, 1.64 mmol) and the resultant mixture heated at 100° C. for 16 h in a reactivial. The cooled reaction mixture were then treated with N,N-diisopropylethylamine (285 μL, 1.64 mmol) and heated for a further 16 h at 100° C. in the reactivial. The cooled reaction mixtures were diluted with CH2Cl2 (30 mL), washed with water (20 mL), the aqueous extracted with CH2Cl2 (30 mL), the CH2Cl2 extracts combined and the solvent removed in vacuo. Purification by Biotage™ chromatography (silica, 90 g) eluted with 10:1 cyclohexane:EtOAc gave the title compound as a colourless gum (178 mg).

reactant | ethyl {4-[(butylamino)methyl]-2-methylphenoxy}acetate | 2.46 mmol, 686 mg | C(CCC)NCC1=CC(=C(OCC(=O)OCC)C=C1)C | C16H25NO3
reactant | N,N-diisopropylethylamine | 1.64 mmol, 285 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-(4-chlorophenyl)-2-(methylsulfonyl)pyrimidine | 1.64 mmol, 439 mg | ClC1=CC=C(C=C1)C1=NC(=NC=C1)S(=O)(=O)C | C11H9ClN2O2S
reactant | N,N-diisopropylethylamine | 1.64 mmol, 285 μL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | Ethyl [4-({butyl[4-(4-chlorophenyl)pyrimidin-2-yl]amino}methyl)-2-methylphenoxy]acetate | 178 mg | C(CCC)N(C1=NC=CC(=N1)C1=CC=C(C=C1)Cl)CC1=CC(=C(OCC(=O)OCC)C=C1)C | C26H30ClN3O3
